US07777047B2
ethyl (2-{7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate
A mixture of 7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indole-2-carbothioamide (150 mg), ethyl but-2-ynoate (120 mg), tributylphosphine (90 mg), dichloromethane (20 mL) and tetrahydrofuran (40 mL) was stirred at room temperature for 15 hr, and the mixture was stirred at 50° C. for 3 hr. The reaction mixture was concentrated, and the residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:4, volume ratio). The obtained crystals were further subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:4, volume ratio) to give pale-yellow crystals. The crystals were recrystallized from ethyl acetate-hexane to give the title compound (60 mg, yield 30%) as pale-yellow prism crystals. melting point 146-147° C.

reactant | 7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indole-2-carbothioamide | 150 mg | CN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1C=NC=CC1 | C15H14N4O2S2
reactant | ethyl but-2-ynoate | 120 mg | C(C#CC)(=O)OCC | C6H8O2
reactant | tributylphosphine | 90 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | ethyl (2-{7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 60 mg, yield 30% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C=1C=NC=CC1 | C21H22N4O4S2
